US07868036B2
f) tert-Butyl 4-(2-{(2-methoxyacetoxy)-[3-(3-methoxypropyl)-1-methyl-1H-indol-5-yl]methyl}-3-methylbutyl)-2,2-dimethyloxazolidine-3-carboxylate (Diastereomer Mixture)
A solution of 2.48 g of tert-butyl 4-(2-{hydroxy-[3-(3-methoxypropyl)-1-methyl-1H-indol-5-yl]methyl}-3-methylbutyl)-2,2-dimethyloxazolidine-3-carboxylate (diastereomer mixture) in 70 ml of toluene is admixed at 0° C. successively with 1.04 ml of pyridine, 1.11 ml of methoxyacetyl chloride and 0.62 g of 4-dimethylaminopyridine. The reaction mixture is stirred at 0° C. over 3.5 hours. The resulting mixture is poured onto 0.1N HCl (cold) and extracted with tert-butyl methyl ether (2×). The combined organic phases are washed successively with water, 1M sodium hydrogencarbonate solution and brine, dried over sodium sulphate and filtered, and the filtrate is concentrated by evaporation. The title compound (diastereomer mixture) is obtained as a white foam from the residue by means of flash chromatography (SiO2 60F). Rf=0.32 (1:1 EtOAc-heptane). Rt=26.14 (gradient II).

reactant | tert-butyl 4-(2-{hydroxy-[3-(3-methoxypropyl)-1-methyl-1H-indol-5-yl]methyl}-3-methylbutyl)-2,2-dimethyloxazolidine-3-carboxylate | 2.48 g | OC(C(CC1N(C(OC1)(C)C)C(=O)OC(C)(C)C)C(C)C)C=1C=C2C(=CN(C2=CC1)C)CCCOC | C29H46N2O5
reactant | pyridine | 1.04 ml | N1=CC=CC=C1 | C5H5N
reactant | methoxyacetyl chloride | 1.11 ml | COCC(=O)Cl | C3H5ClO2
reactant | HCl | 0.1N | Cl | ClH
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
catalyst | 4-dimethylaminopyridine | 0.62 g | CN(C1=CC=NC=C1)C | C7H10N2
product | tert-Butyl 4-(2-{(2-methoxyacetoxy)-[3-(3-methoxypropyl)-1-methyl-1H-indol-5-yl]methyl}-3-methylbutyl)-2,2-dimethyloxazolidine-3-carboxylate | COCC(=O)OC(C(CC1N(C(OC1)(C)C)C(=O)OC(C)(C)C)C(C)C)C=1C=C2C(=CN(C2=CC1)C)CCCOC | C32H50N2O7
